US06028080
2.0 g (4.6 mmol) of methyl 3-(dimethylaminophenyl-methyl)phenyl-2-acetamido-4-chlorobenzoate are dissolved in 15 ml of THF. With cooling, 15 ml of a 1 molar solution of THF and KN[Si(CH3)3 ]2 are added dropwise with stirring. The mixture is additionally stirred at room temperature for 1 1/2 hours. The solvent is distilled off and the residue is treated with water. The solution thus obtained is washed with dichloromethane. The aqueous phase is adjusted to an acidic pH using hydrochloric acid and again extracted with dichloromethane. The organic phase separated off is dried. The solvent is distilled off. For further purification of the oil obtained, the product is taken up with ethanol, acidified with ethereal hydrochloric acid, triturated with ether and the product obtained is filtered off with suction. 7-Chloro-3-[dimethylamino-phenylmethyl)phenyl]-1,2-dihydro-4-hydroxyquinolin-2-one hydrochloride, dihydrate, m.p. ~230°, is obtained.

reactant | methyl 3-(dimethylaminophenyl-methyl)phenyl-2-acetamido-4-chlorobenzoate | 4.6 mmol, 2.0 g | CN(C)C(C=1C=C(C=CC1)C=1C(=C(C(=O)OC)C=CC1Cl)NC(C)=O)C1=CC=CC=C1 | C25H25ClN2O3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1,2-dihydro-4-hydroxyquinolin-2-one hydrochloride | Cl.OC1=CC(NC2=CC=CC=C12)=O | InChI=1S/C9H7NO2.ClH/c11-8-5-9(12)10-7-4-2-1-3-6(7)8;/h1-5H,(H2,10,11,12);1H
